US07001910B1
5-(4-{2-[(6-Methoxypyrimidin-4-yl)-methylamino]-ethoxy}-benzyl)-thiazolidine-2,4-dione
A starting mixture consisting of 2.9 g (0.02 mol) 4-chloromethoxypyrimidine and 5.6 g (0.02 mol) 5-[4-(2-methylaminoethoxy)-benzyl]-thiazolidine-2,4-dione in 60 ml DMF and in the presence of 17 g NaHCO3 is heated at 100° C. for 24 h. Once the reaction completed, the mixture is poured onto 600 ml water and it is extracted with 4×200 ml AcOEt.

reactant | 4-chloromethoxypyrimidine | 0.02 mol, 2.9 g | ClCOC1=NC=NC=C1 | C5H5ClN2O
reactant | 5-[4-(2-methylaminoethoxy)-benzyl]-thiazolidine-2,4-dione | 0.02 mol, 5.6 g | CNCCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C13H16N2O3S
reactant | NaHCO3 | 17 g | C(=O)(O)[O-].[Na+]
reactant | water | 600 ml | O | H2O
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 5-(4-{2-[(6-Methoxypyrimidin-4-yl)-methylamino]-ethoxy}-benzyl)-thiazolidine-2,4-dione | COC1=CC(=NC=N1)N(CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C | C18H20N4O4S
